US08461328B2
A mixture of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (692 mg, 2.10 mmol), racemic cis 1-benzyl-4-methyl-piperidin-3-ylamine (460 mg, 2.30 mmol) and diisopropylethylamine (1.25 mL, 7.20 mmol) in propan-2-ol (30 mL) was heated to reflux for 2 hours. The cooled reaction mixture was filtered and the yellow solid dried under vacuum to afford 940 mg (90%) of racemic cis (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1-benzyl-4-methyl-piperidin-3-yl)-amine. LCMS (Method H, ESI): RT=2.61 min, m+H=506.2; 1H NMR (400 MHz, DMSO) δ: 9.67 (d, 1H), 8.94 (s, 1H), 8.13 (dd, 2H), 7.75 (m, 2H), 7.66 (m, 2H), 7.30-7.10 (m, 6H), 4.54 (d, 1H), 3.49 (m, 2H) 2.83 (t, 2H), 2.27 (d, 1H), 2.07 (m, 1H), 1.91 (br s, 1H), 1.47 (m, 2H), 0.81 (d, 3H).

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 2.10 mmol, 692 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | racemic cis 1-benzyl-4-methyl-piperidin-3-ylamine | 2.30 mmol, 460 mg | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C)N | C13H20N2
reactant | diisopropylethylamine | 7.20 mmol, 1.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 30 mL | CC(C)O | C3H8O
product | racemic cis (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1-benzyl-4-methyl-piperidin-3-yl)-amine | 940 mg, 90% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2CN(CC[C@@H]2C)CC2=CC=CC=C2)[N+](=O)[O-] | C26H27N5O4S
